US06350749B1
To a solution of 5-(2-chlorophenyl)cyclohexane-1,3-dione (1.5 g), acetic acid (0.73 g) and dimethylaminopyridine (0.12 g) in dimethylformamide (65 ml) was added dicyclohexylcarbodiimide (1.5 g), and the mixture was stirred at room temperature for 13 hours. Under reduced pressure, the solvent was evaporated, and to the residue was ethyl acetate. The solution was washed with sodium hydrogen carbonate solution, water and saturated brine, dried with magnesium sulfate and concentrated under reduced pressure, and the residue was recrystallized from ethyl acetate-hexane to give colorless crystals of 2-(1-hydroxyethylidene)-5-(2-chlorophenyl)cyclohexane-1,3-dione (1.4 g).

reactant | 5-(2-chlorophenyl)cyclohexane-1,3-dione | 1.5 g | ClC1=C(C=CC=C1)C1CC(CC(C1)=O)=O | C12H11ClO2
reactant | acetic acid | 0.73 g | C(C)(=O)O | C2H4O2
reactant | dimethylaminopyridine | 0.12 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | dicyclohexylcarbodiimide | 1.5 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dimethylformamide | 65 ml | CN(C=O)C | C3H7NO
product | 2-(1-hydroxyethylidene)-5-(2-chlorophenyl)cyclohexane-1,3-dione | 1.4 g | OC(C)=C1C(CC(CC1=O)C1=C(C=CC=C1)Cl)=O | C14H13ClO3
